US05118599
5-ACETYL-2,2,5-TRIMETHYL-1,3-DIOXANE
2,2-Dimethoxypropane (418 parts), 3,3-bis(hydroxymethyl)-2-butanone (265 parts) and Amberlyst-15®, (40 parts) are combined in dichloromethane (1,320 parts) and the resultant suspension stirred vigorously at room temperature, ca. 1 hr. The spent resin is separated from the solution by filtration and the residual solvents removed in vacuo to yield a pale straw-colored liquid which can solidify upon standing. Yield is 87% of theory and analytical samples are recrystallized from ethyl ether, m.p. 48-50° C. Proton NMR and combustion analysis are consistent with those values predicted for the desired product. Combustion Analysis for C9H16O3 --Calculated: C, 62.8%; H, 9.4%. Found: C, 62.0%; H, 9.0%.

reactant | 2,2-Dimethoxypropane | COC(C)(C)OC | C5H12O2
reactant | 3,3-bis(hydroxymethyl)-2-butanone | OCC(C(C)=O)(C)CO | C6H12O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-ACETYL-2,2,5-TRIMETHYL-1,3-DIOXANE | Yield is 87% | C(C)(=O)C1(COC(OC1)(C)C)C | C9H16O3
